US09359305B2
Compound number 247 (i.e., 6-chloro-5-(3,5-dichlorophenyl)-2-trifluoromethylbenzimidazole) was prepared as follows. A 100-mL round-bottom flask was purged and maintained with an inert atmosphere of nitrogen. 5-chloro-6-iodo-2-(trifluoromethyl)-1H-1,3-benzodiazole (200 mg, 0.58 mmol, 1.00 equiv), (3,5-dichlorophenyl)boronic acid (110 mg, 0.58 mmol, 2.00 equiv), dioxane (15 mL), Pd(PPh3)4 (66.8 mg, 0.06 mmol, 0.10 equiv), water (5 mL) and sodium methaneperoxoate sodium (183.8 mg, 1.72 mmol, 3.00 equiv) was placed in the flask. The resulting solution was stirred overnight at 100° C. in an oil bath. The reaction was then quenched by the addition of 15 mL of water. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). The crude product (100 mg) was purified by Flash-Prep-HPLC with the following conditions (IntelFlash-2): Column, C18 silica gel; mobile phase, water increasing to acetonitrile within 40 min; Detector, UV 254 nm. 47.7 mg product was obtained. This resulted in 47.7 mg (23%) of 6-chloro-5-(3,5-dichlorophenyl)-2-trifluoromethylbenzimidazole as a white solid.

reactant | 5-chloro-6-iodo-2-(trifluoromethyl)-1H-1,3-benzodiazole | 0.58 mmol, 200 mg, 1.00 equiv | ClC1=CC2=C(NC(=N2)C(F)(F)F)C=C1I | C8H3ClF3IN2
reactant | (3,5-dichlorophenyl)boronic acid | 0.58 mmol, 110 mg, 2.00 equiv | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
reactant | sodium methaneperoxoate sodium | 1.72 mmol, 183.8 mg, 3.00 equiv | [Na+].C(=O)O[O-].[Na+].C(=O)O[O-]
catalyst | Pd(PPh3)4 | 0.06 mmol, 66.8 mg, 0.10 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5 mL | O | H2O
product | 6-chloro-5-(3,5-dichlorophenyl)-2-trifluoromethylbenzimidazole | ClC=1C(=CC2=C(N=C(N2)C(F)(F)F)C1)C1=CC(=CC(=C1)Cl)Cl | C14H6Cl3F3N2
